US08293744B2
Step 3: Preparation of 5-[(6-chloropyridin-3-yl)methyl]-2-(2,3-dimethylphenyl)-2,5-dihydro-3H-pyrazolo[4,3-c]pyrido[3,2-e]pyridazin-3-one (Example 4):
Ethyl 1-[(6-chloropyridin-3-yl)methyl]-4-thioxo-1,4-dihydropyrido[2,3-c]pyridazine-3-carboxylate (389 mg, 1.08 mmol), (2,3-dimethylphenyl)hydrazine hydrochloride (279 mg, 1.62 mmol, 1.5 equiv) and potassium carbonate (1.49 g, 10.8 mmol, 10 equiv) were combined and placed into an oil bath preheated to 70° C. for 3 hours. The mixture was cooled to ambient temperature, poured into sodium bicarbonate (150 mL, aqueous saturated) and extracted with ethyl acetate (3×100 mL). The combined organic extracts were washed with brine (1×50 mL), dried with sodium sulfate, filtered and concentrated in vacuo. The residue was purified by silica gel gradient chromatography (100:0 to 0:100; hexanes:ethyl acetate containing 5% methanol), providing the titled compound as a deep red solid.

reactant | Ethyl 1-[(6-chloropyridin-3-yl)methyl]-4-thioxo-1,4-dihydropyrido[2,3-c]pyridazine-3-carboxylate | 1.08 mmol, 389 mg | ClC1=CC=C(C=N1)CN1N=C(C(C2=C1N=CC=C2)=S)C(=O)OCC | C16H13ClN4O2S
reactant | (2,3-dimethylphenyl)hydrazine hydrochloride | 1.62 mmol, 279 mg, 1.5 equiv | Cl.CC1=C(C=CC=C1C)NN
reactant | potassium carbonate | 10.8 mmol, 1.49 g, 10 equiv | C([O-])([O-])=O.[K+].[K+]
solvent | sodium bicarbonate | 150 mL | C([O-])(O)=O.[Na+]
product | 5-[(6-chloropyridin-3-yl)methyl]-2-(2,3-dimethylphenyl)-2,5-dihydro-3H-pyrazolo[4,3-c]pyrido[3,2-e]pyridazin-3-one | ClC1=CC=C(C=N1)CN1N=C2C(C3=C1N=CC=C3)=NN(C2=O)C2=C(C(=CC=C2)C)C | C22H17ClN6O
